simulator lang=spectre
global 0

ahdl_include "./dut/debounce_latch.va"

Vsig (sig 0) vsource type=pwl wave=[0 0 5n 0 5.05n 0.9 24n 0.9 24.05n 0 31n 0 31.05n 0.9 36n 0.9 36.05n 0 71n 0 71.05n 0.9 132n 0.9 132.05n 0 140n 0]
Vrst (rst_n 0) vsource type=pwl wave=[0 0 16n 0 16.05n 0.9 140n 0.9]
XDUT (sig rst_n out) debounce_latch

simulatorOptions options evas_profile=balanced

tran tran stop=140n maxstep=500p
save sig rst_n out
